US08372516B2
To a solution of diethyl 3-acryloyloxypropylphosphonate (31.12 g; 0.124 moles) in CH2Cl2 (85 g) is added a solution of trimethylsilyl bromide (40 g; 0.261 moles) in CH2Cl2 (9.2 g) dropwise at room temperature. The mixture is refluxed for 4 hours. The solvent is evaporated on a rotary evaporator under reduced pressure to afford di(trimethylsilyl) 3-acryloyloxypropylphosphonate as a clear, colorless liquid (42.4 g; purity 95% by GC). 1H NMR (CDCl3, δ ppm) 0.006 (s, 9H, CH3—Si), 1.4-1.54 (m, 2H, CH2—P), 1.59-1.72 (m, 2H, CH2—CH2—), 3.91 (t, 2H, CH2—O), 5.55 (dd, 1H, CH═), 5.83 (dd, 1H, CH═), 6.12 (dd, 1H, CH═). 31P NMR (CDCl3, δ ppm) 13.55.

reactant | diethyl 3-acryloyloxypropylphosphonate | 0.124 moles, 31.12 g | C(C=C)(=O)OCCCP(OCC)(OCC)=O | C10H19O5P
reactant | trimethylsilyl bromide | 0.261 moles, 40 g | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 85 g | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 9.2 g | C(Cl)Cl | CH2Cl2
product | di(trimethylsilyl) 3-acryloyloxypropylphosphonate | yield 99% | C(C=C)(=O)OCCCP(O[Si](C)(C)C)(O[Si](C)(C)C)=O | C12H27O5PSi2
